US05340802
34a: Diethyl 1-Acetyl-5-hydroxy-3-n-propylpyrrolidine-2,2-dicarboxylate
Sodium metal (3.48 g, 0.15 mol) was dissolved in a stirred solution of diethyl acetamidomalonate (201.6 g, 0.93 mol) in anhydrous ethanol (1200 mL) at room temperature under nitrogen. The reaction mixture was cooled to 0° C. and trans-2-hexenal (100.0 g, 1.02 mol) was then added dropwise. The resulting mixture was allowed to warm to room temperature. After stirring for 3 hours at 23° C., the reaction was quenched with 24 mL of acetic acid. The solution was concentrated in vacuo and the resulting residue was taken up in ethyl acetate and washed with saturated aqueous NaHCO3 (2×) and brine. Dried over anhydrous magnesium sulfate, concentation and recrystallization of the residue from EtOAc/Hexane gave 271.4 g (93% yield) of the title compound as fine needles, mp 105°-106° C. TLC, Rf =0.43 (9:1 CHCl3 /MeOH). MS(CI) m/e 316 (M+1)+, 298 (MH-H2O)+ . 1H NMR (CD3OD, 300 MHz) δ0.94 (t, J=7.2 Hz, 3H), 1.47-1.11 (m, 9H), 1.90-1.78 (m, 1H), 1.94 (dd, J=12.8, 5.2 Hz, 1H), 2.08 (dd, J=12.8, 6.4 Hz, 1H), 2.21 (s, 3H), 2.83 (m, 1H), 4.10-4.26 (m, 4H), 5.64 (d, J=5.2 Hz, 1H). IR (CDCl3) 3460, 1750, 1665 cm-1. Anal. calcd. for C15H25NO6 : C, 57.13; H, 7.99; N, 4.44. Found: C, 57.28; H, 8.08; N, 4.42.

reactant | Sodium | 0.15 mol, 3.48 g | [Na] | Na
reactant | diethyl acetamidomalonate | 0.93 mol, 201.6 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | trans-2-hexenal | 1.02 mol, 100.0 g | C(\C=C\CCC)=O | C6H10O
solvent | ethanol | 1200 mL | C(C)O | C2H6O
product | Diethyl 1-Acetyl-5-hydroxy-3-n-propylpyrrolidine-2,2-dicarboxylate | 271.4 g, 93% yield | C(C)(=O)N1C(C(CC1O)CCC)(C(=O)OCC)C(=O)OCC | C15H25NO6
